US05661169
5-Chloro-3-cycloheptyl-1,3-dihydro-2H-benzimidazol-2-one
A mixture of 18.2 g of 4-chloro-1,2-dinitrobenzene and 31 g of cycloheptylamine in 55 ml of 95% EtOH is left stirring for 15 hours at RT. The reaction mixture is concentrated under vacuum, the residue is extracted with EtOAc, washed with 1N HCl solution, with water and dried over Na2SO4, and the solvent is evaporated off under vacuum. The residue is chromatographed on silica, eluting with petroleum ether. 13 g of the expected product are obtained after crystallization from isopropanol.

reactant | 4-chloro-1,2-dinitrobenzene | 18.2 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
reactant | cycloheptylamine | 31 g | C1(CCCCCC1)N | C7H15N
reactant | EtOH | 55 ml | CCO | C2H6O
product | 5-Chloro-3-cycloheptyl-1,3-dihydro-2H-benzimidazol-2-one | 13 g | ClC1=CC2=C(NC(N2C2CCCCCC2)=O)C=C1 | C14H17ClN2O
